US07405305B2
3-(1-(3-methanesulfonyloxyprop-1-yl)indol-3-yl)-4-(5-benzyloxybenzofur-7-yl)pyrrole-2,5-dione
Dissolve 3-(5-Benzyloxybenzofur-7-yl)-4-[1-(3-hydroxypropyl)-1H-indol-3-yl]pyrrole-2,5-dione (380 mg, 0.77 mmol) and triethylamine (0.43 ml, 3.1 mmol) in tetrahydrofuran (15 ml) and cool in an ice bath. Add methanesulfonyl chloride (0.066 ml, 0.85 mmol) dropwise, and stir for four hours. Dilute the reaction in ethyl acetate, wash with water and brine, dry with magnesium sulfate, and concentrate to give the title compound (440 mg, 100%). MS(ES+): 571.14.

reactant | 3-(5-Benzyloxybenzofur-7-yl)-4-[1-(3-hydroxypropyl)-1H-indol-3-yl]pyrrole-2,5-dione | 0.77 mmol, 380 mg | C(C1=CC=CC=C1)OC=1C=C(C2=C(C=CO2)C1)C=1C(NC(C1C1=CN(C2=CC=CC=C12)CCCO)=O)=O | C30H24N2O5
reactant | triethylamine | 3.1 mmol, 0.43 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.85 mmol, 0.066 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(1-(3-methanesulfonyloxyprop-1-yl)indol-3-yl)-4-(5-benzyloxybenzofur-7-yl)pyrrole-2,5-dione | 440 mg, 100% | CS(=O)(=O)OCCCN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CC(=CC=2C=COC21)OCC2=CC=CC=C2)=O)=O | C31H26N2O7S
